Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.80666182263
[C:11]([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]#[C:9][H:10]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])=[C:11]([H:12])[H:13],-4.54676838072
[C:6]([H:7])#[C:8][O:9][H:10].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[O:9][H:10],0.0300231407691
[O:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1]=[C:2]([O:3][C:4]#[C:5][H:6])[C:8]([H:9])([H:10])[H:11],2.4056096568400003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[O:1]=[C:2]([H:3])[H:4],0.816311039689
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][H:10],4.91382434847
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11]/[C:13]([H:14])([H:15])[H:16],4.75913898366
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[O:10][C:11]([H:12])([H:13])[H:14].[H:9],4.82752033699
[H:10].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-1.90047680917
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])=[C:13]([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.5853695290399998
[C:1]=[C:2]([O:3][H:4])[C:5](=[O:6])[C:8]([H:9])([H:10])[H:11].[H:7]>>[C:1]/[C:2]([O:3][H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-2.43716229455
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[C:11]([H:12])=[C:13]([H:14])[H:15],1.7409728648599998
[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-0.888583681751
[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-3.1632257587700003
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:9].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[C:10]([H:11])=[C:12]([H:13])[H:14],3.53386351632
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11].[O:12][H:13],2.7768490269200004
[C:4]([H:5])([H:6])=[C:7]([H:8])[O:9][H:10].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[O:9][H:10],-1.11362147299
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])=[C:7]([H:8])[C:9]([O:10])([H:11])[H:12]>>[C:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([O:10])([H:11])[H:12],0.0765998587513
[H:1][O:2][C:3][C:4]([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]#[C:4][H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-1.4771695591499998
[H:1].[O:2]=[C:3]([C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-2.77336666034
[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3][H:4].[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.87504285371
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3][H:4])([H:6])/[C:10]([H:11])=[C:12](\[H:13])[C:14]([H:15])([H:16])[H:17].[H:5][C:7]([H:8])[H:9],4.99502206472
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[O:1],4.03866466872
[C:4]([H:5])([H:6])[C:7]#[C:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-3.1710967207
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12]>>[C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[O:11][H:12].[H:1],6.01654319684
[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]1[C:3][O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10],-0.151091246931
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])=[C:5]([H:6])[C:7][O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2],7.290260534460001
[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])[O:5][C:6]#[C:7]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7][C:8]([H:9])[H:10],-6.59824458073
